US07304062B2
2-Methyl-2-(4-(3-[1-(4-methylbenzyl)-5-oxo-4-propyl-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-propionic acid ethyl ester
To a mixture of sodium ethoxide (1.22 mL, 3.28 mmol) and ethyl acetate (322 μL, 3.28 mmol) was added 5-[3-(4-hydroxyphenyl)-propyl]-2-(4-methylbenzyl)-4-propyl-2,4-dihydro-[1,2,4]triazol-3-one (1.2 g, 3.28 mmol) in ethanol (10 mL) and the resulting mixture stirred at reflux for 1 hour. Then ethyl-2-butyl isobutyrate (1.08 mL, 7.38 mmol) was added and the reaction continued at reflux for 1 hour. Then sodium ethoxide (1.22 mL, 3.28 mmol) was added dropwise over 5 min and the reaction continued at reflux for 4.5 hour. Additional sodium ethoxide (520 μL, 1.4 mmol) and ethyl-2-butyl isobutyrate (205 μL, 1.4 mmol) were added and reaction continued at reflux for 4 hour. Additional sodium ethoxide (336 μL, 0.903 mmol) and ethyl-2-butyl isobutyrate (132 μL, 0.903 mmol) were added and the reaction continued at reflux for 3 hours. Finally, additional sodium ethoxide (200 μL, 0.54 mmol) and ethyl-2-butyl isobutyrate (100 μL, 0.133 mmol) were added and the reaction continued at reflux for 1.5 hours. The mixture was allowed to cool to room temperature and is then quenched into a solution of conc. HCl (1.5 g, 41 mmol) in water (50 mL). The resulting solution was then concentrated in vacuo, taken up in ethyl acetate (100 mL) and the aqueous layer was discarded. The organic layer was washed with saturated aq. NaHCO3 (2×50 mL) followed by saturated aq. NaCl (2×25 mL). The organic layer was dried (MgSO4), filtered, concentrated, and purified by silica gel chromatography (1:1 ethyl acetate:hexanes) to afford the title compound as a yellow oil (990 mg, 2.06 mmol, 63%):

reactant | sodium ethoxide | 3.28 mmol, 1.22 mL | [O-]CC.[Na+]
reactant | ethyl acetate | 3.28 mmol, 322 μL | C(C)(=O)OCC | C4H8O2
reactant | 5-[3-(4-hydroxyphenyl)-propyl]-2-(4-methylbenzyl)-4-propyl-2,4-dihydro-[1,2,4]triazol-3-one | 3.28 mmol, 1.2 g | OC1=CC=C(C=C1)CCCC=1N(C(N(N1)CC1=CC=C(C=C1)C)=O)CCC | C22H27N3O2
reactant | ethyl-2-butyl isobutyrate | 7.38 mmol, 1.08 mL | C(C(C)C)(=O)OC(CCC)CC | C10H20O2
reactant | sodium ethoxide | 3.28 mmol, 1.22 mL | [O-]CC.[Na+]
reactant | sodium ethoxide | 1.4 mmol, 520 μL | [O-]CC.[Na+]
reactant | ethyl-2-butyl isobutyrate | 1.4 mmol, 205 μL | C(C(C)C)(=O)OC(CCC)CC | C10H20O2
reactant | sodium ethoxide | 0.903 mmol, 336 μL | [O-]CC.[Na+]
reactant | ethyl-2-butyl isobutyrate | 0.903 mmol, 132 μL | C(C(C)C)(=O)OC(CCC)CC | C10H20O2
reactant | sodium ethoxide | 0.54 mmol, 200 μL | [O-]CC.[Na+]
reactant | HCl | 41 mmol, 1.5 g | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
catalyst | ethyl-2-butyl isobutyrate | 0.133 mmol, 100 μL | C(C(C)C)(=O)OC(CCC)CC | C10H20O2
product | 2-Methyl-2-(4-(3-[1-(4-methylbenzyl)-5-oxo-4-propyl-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-propionic acid ethyl ester | 2.06 mmol, 990 mg, 63% | C(C)OC(C(C)(OC1=CC=C(C=C1)CCCC1=NN(C(N1CCC)=O)CC1=CC=C(C=C1)C)C)=O | C28H37N3O4
